US04014883
Preparation of 10-chloro-5-(3-dimethylaminopropyl)-7H-indolo-[2,3-c]quinolin-6(5H)-one
Under the same conditions as described above, reaction of 17.7 g. of 5-chloro-N-(3-dimethylaminopropyl)-3-(2-fluorophenyl)-indole-2-carboxamide with 6.8 g. sodium hydride suspension in 250 ml. of dimethylformamide yielded after recrystallization from boiling dimethylformamide 13.5 g. (81 percent) of 10-chloro-5-(3-dimethylaminopropyl)-7H-indolo[2,3-c]quinolin-6(5H)-one, having a melting point of 286°-288°.

reactant | 5-chloro-N-(3-dimethylaminopropyl)-3-(2-fluorophenyl)-indole-2-carboxamide | ClC=1C=C2C(=C(NC2=CC1)C(=O)NCCCN(C)C)C1=C(C=CC=C1)F | C20H21ClFN3O
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 10-chloro-5-(3-dimethylaminopropyl)-7H-indolo-[2,3-c]quinolin-6(5H)-one | ClC1=CC2=C(C=C1)NC=1C(N(C3=CC=CC=C3C12)CCCN(C)C)=O | C20H20ClN3O
